US05948817
(2,10-Dihydro-1H-fluoreno[2,1-b]furan-10-ylidene)acetonitrile:
A magnetically stirred solution of diethyl cyanomethylphosphonate (0.502 g, 2.83 mmol) in anhydrous THF (150 mL) was treated with sodium hydride (60% in mineral oil, 0.113 g, 2.82 mmol) in portions. The resultant suspension was treated dropwise with 2,10-dihydro-1H-fluoreno[2,1-b]furan-10-one (0.525 g, 2.36 mmol) in THF (100 mL), stirred 12 h, poured over ice (100 g), and treated with brine (100 mL), and Et2O (150 mL). The layers were separated and the aqueous layer further extracted with fresh Et2O (2×150 mL). The combined organic extracts were washed with brine (200 mL), dried (K2CO3), filtered, and concentrated in vacuo.

reactant | diethyl cyanomethylphosphonate | 2.83 mmol, 0.502 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 2.82 mmol, 0.113 g | [H-].[Na+]
reactant | 2,10-dihydro-1H-fluoreno[2,1-b]furan-10-one | 2.36 mmol, 0.525 g | C1C2=C(OC1)C=CC=1C3=CC=CC=C3C(C12)=O | C15H10O2
reactant | Et2O | 150 mL | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | (2,10-Dihydro-1H-fluoreno[2,1-b]furan-10-ylidene)acetonitrile | C1C2=C(OC1)C=CC=1C3=CC=CC=C3C(C12)=CC#N | C17H11NO
